US09145380B2
(E)-2-(2-(2-Fluorophenyl)vinylsulfonamido)benzenesulfonamide
The title compound was synthesized as described for Example 178 in 31% yield, starting from 2-aminobenzenesulfonamide and (E)-2-(2-fluorophenyl)ethenesulfonyl chloride.

reactant | 2-aminobenzenesulfonamide | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | (E)-2-(2-fluorophenyl)ethenesulfonyl chloride | FC1=C(C=CC=C1)/C=C/S(=O)(=O)Cl | C8H6ClFO2S
product | (E)-2-(2-(2-Fluorophenyl)vinylsulfonamido)benzenesulfonamide | 31% yield | FC1=C(C=CC=C1)/C=C/S(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C14H13FN2O4S2
